US06448282B1
4-(4,4-dibromobut-3-enyl)imidazole was prepared by deprotection of 4-(4,4-dibromobut-3-enyl)-1-(triphenylmethyl)imidazole by HCl.

reactant | 4-(4,4-dibromobut-3-enyl)-1-(triphenylmethyl)imidazole | BrC(=CCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Br | C26H22Br2N2
reactant | HCl | Cl | ClH
product | 4-(4,4-dibromobut-3-enyl)imidazole | BrC(=CCCC=1N=CNC1)Br | C7H8Br2N2
